US06541506B1
Step 4: Synthesis of 9-oxo-nonanoic acid methyl ester
9-Hydroxy-nonanoic acid methyl ester (7 g) in dichloromethane was treated with pyridinium dichromate (35 g) and stirred at room temperature for 12 hours. The pyridinium dichromate was filtered, and the organic filtrate was washed by water. Hexane (3× volume) was added to the solution, and organic layer was collected and dried to obtain the crude product. The product was purified by Si gel column chromatography to yield ˜5 g of product.

reactant | 9-Hydroxy-nonanoic acid methyl ester | 7 g | COC(CCCCCCCCO)=O | C10H20O3
reactant | pyridinium dichromate | 35 g | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
solvent | dichloromethane | ClCCl | CH2Cl2
product | 9-oxo-nonanoic acid methyl ester | ˜5 g | COC(CCCCCCCC=O)=O | C10H18O3
